US07763629B2
Method G: (R)-3-chloro-5-cyclopentyl-6-ethyl-5,6-dihydroimidazo[1,2-f]pteridine
(R)-2-chloro-8-cyclopentyl-7-ethyl-7,8-dihydropteridin-6-amine (177 mg, 0.64 mmol) in MeOH (1.5 mL) treated with 50% aqueous chloroacetaldehyde (131 μL, 1.3 Eq.) and the reaction mixture heated to reflux for 6 hours. A further portion of 50% aq. chloroacetaldehyde (400 μL, 3.0 Eq.) was added, and the reaction mixture heated to 68° C. overnight. NaHCO3 (aq. sat.) and EtOAc was added, and the aqueous was further extracted with EtOAc. The combined organic extracts were dried over MgSO4, filtered and concentrated in vacuo.

reactant | (R)-2-chloro-8-cyclopentyl-7-ethyl-7,8-dihydropteridin-6-amine | 0.64 mmol, 177 mg | ClC1=NC=2N([C@@H](C(=NC2C=N1)N)CC)C1CCCC1 | C13H18ClN5
reactant | chloroacetaldehyde | 131 μL, 1.3 Eq. | ClCC=O | C2H3ClO
reactant | chloroacetaldehyde | 400 μL, 3.0 Eq. | ClCC=O | C2H3ClO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | 1.5 mL | CO | CH4O
product | (R)-3-chloro-5-cyclopentyl-6-ethyl-5,6-dihydroimidazo[1,2-f]pteridine | ClC1=NC=2N([C@@H](C=3N(C2C=N1)C=CN3)CC)C3CCCC3 | C15H18ClN5
